US07030145B2
{4-[6-Methyl-2-(2,4,6-trimethylphenylamino)-pyridine-3-sulfonyl]-phenyl}-methanol, prepared as described in Example 50, (0.5 g, 1.26 mmol) was dissolved in CHCl3 (10 mL) and Dess-Martin periodinane (0.59 g, 1.39 mmol) was added. The reaction was stirred at 25° C. for 16 h, dissolved in EtOAc (100 mL), and the EtOAc was washed with sat sodium thiosulfate solution (20 mL), water (20 mL) and brine, dried and stripped in vacuo. The residue was chromatographed on silica gel using 20% EtOAc/hexanes eluent to give 4-[6-methyl-2-(2,4,6-trimethylphenylamino)-pyridine-3-sulfonyl]-benzaldehyde (472 mg, 95% yield) as an amorphous solid. mass spec. (AP+): m/z 395 (M+1).

reactant | {4-[6-Methyl-2-(2,4,6-trimethylphenylamino)-pyridine-3-sulfonyl]-phenyl}-methanol | CC1=CC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)CO | C22H24N2O3S
reactant | Dess-Martin periodinane | 1.39 mmol, 0.59 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-[6-methyl-2-(2,4,6-trimethylphenylamino)-pyridine-3-sulfonyl]-benzaldehyde | 472 mg, 95% yield | CC1=CC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=O)C=C1 | C22H22N2O3S
